US05750555
3-[3-[4-(1-Methylindol-3-yl)-1H-pyrrole-2,5-dion-3-yl]-indol-1-yl)-propionyl-L-alanine
3-[3-[4-(1-Methylindol-3-yl)-1H-pyrrole-2,5-dion-3-yl)-indol-1-yl]-propionyl-L-alanine methyl ester 100 mg (0.2 mmol) are dissolved in a mixture of 4 mL dioxane and 1 mL of water, mixed with 36 mg (1.5 mmol) lithium hydroxide, and stirred for 18 hours at ambient temperature. The solvent is subsequently distilled off in a vacuum and the residue is taken up in 30 mL ethylacetate, washed with 1N hydrochloric acid, and dried over anhydrous sodium sulphate. The solvent is then distilled off in a vacuum and the residue separated by thick layer chromatography (silica gel, dichloromethane/methanol saturated with ammonia=90:10%). The product is separated with the first polar fraction, extracted, freed from solvent, and stirred up with a mixture of dichloromethane and diisopropyl ether (1:1). There are obtained 65 mg (67% of theory) of the desired product;

reactant | 3-[3-[4-(1-Methylindol-3-yl)-1H-pyrrole-2,5-dion-3-yl)-indol-1-yl]-propionyl-L-alanine methyl ester | 0.2 mmol, 100 mg | COC([C@@H](NC(CCN1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CN(C2=CC=CC=C12)C)=O)=O)=O)C)=O | C28H26N4O5
reactant | lithium hydroxide | 1.5 mmol, 36 mg | [OH-].[Li+]
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | water | 1 mL | O | H2O
product | 3-[3-[4-(1-Methylindol-3-yl)-1H-pyrrole-2,5-dion-3-yl]-indol-1-yl)-propionyl-L-alanine | CN1C=C(C2=CC=CC=C12)C1=C(C(NC1=O)=O)C1=CN(C2=CC=CC=C12)CCC(=O)N[C@@H](C)C(=O)O | C27H24N4O5
